US05292720
The 1,1,2,3,3,4-hexamethyl-6-methoxyindane (10.8 g) is then heated with copper(II) sulfate pentahydrate (18.04 g) and potassium peroxydisulfate (60.55 g) in acetonitrile and water (1:1, 500 ml) at reflux for about 15 to 20 minutes, following procedures similar to those described in Hauser et al., Synthesis, pp. 723-724 (1987). The mixture is then cooled to room temperature and methylene chloride (150 ml) is added. The layers are separated and the aqueous phase is further extracted with additional methylene chloride (2×70 ml). The combined organic solutions are dried with anhydrous sodium sulfate, filtered, and evaporated at reduced pressure to yield 5-formyl-1,1,2,3,3,4-hexamethyl-6-methoxyindane.

reactant | 1,1,2,3,3,4-hexamethyl-6-methoxyindane | 10.8 g | CC1(C(C(C2=C(C=C(C=C12)OC)C)(C)C)C)C | C16H24O
reactant | potassium peroxydisulfate | 60.55 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
reactant | acetonitrile | C(C)#N | C2H3N
solvent | water | 500 ml | O | H2O
catalyst | copper(II) sulfate pentahydrate | 18.04 g | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | 5-formyl-1,1,2,3,3,4-hexamethyl-6-methoxyindane | C(=O)C=1C(=C2C(C(C(C2=CC1OC)(C)C)C)(C)C)C | C17H24O2
